US04820712
N-(tert.-butyloxycarbonyl)-L-isoleucine methyl ester (4c)
This compound was prepared in 99% yield from the hydrochloride of L-isoleucine methyl ester (27.3 g, 0.15 mol) by treatment with di-tert.-butyl pyrocarbonate following the procedure that has been described earlier1,2. TLC Rf 0.85 (eluent MeOH/CHCl3, 3/97). 1H NMR (CDCl3) δ 0.73-0.99 (m, 6H, CH2CH3, CHCH3), 1.06-1.41 (m, 2H, CH2CH3), 1.44 (s, 9H, t-Bu), 3.27-3.67 (m, 1H, CHCH3), 3.73 (s, 3H, CO2CH3), 4.03-4.40 (m, 1H, CHCO2CH3), 4.77-5.20 (m, 1H, NH).

reactant | hydrochloride | Cl | ClH
reactant | L-isoleucine methyl ester | 0.15 mol, 27.3 g | COC([C@@H](N)[C@@H](C)CC)=O | C7H15NO2
reactant | di-tert.-butyl pyrocarbonate | C(OC(C)(C)C)(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | MeOH CHCl3 | CO.C(Cl)(Cl)Cl
product | N-(tert.-butyloxycarbonyl)-L-isoleucine methyl ester | 99% yield | COC([C@@H](NC(=O)OC(C)(C)C)[C@@H](C)CC)=O | C12H23NO4
